US05008267
A mixture of 4.16 g of 2,6-dichloro-4-nitrophenol, 40.4 g of 1,3-dibromopropane, 2.76 g of potassium carbonate and 2.46 g of potassium t-butoxide was heated under reflux for 4 hours in 50 ml of methyl ethyl ketone. The reaction mixture was allowed to cool down and insoluble matters were filtered off. The filtrate was concentrated under reduced pressure. The residue was dissolved in chloroform. The thus-prepared chloroform solution was washed with water, and the chloroform was then distilled off. The residue was purified by chromatography on a silica gel column (eluent: chloroform/hexane=4/1, by volume) to obtain 6.24 g of 1-bromo-3-(2,6-dichloro-4-nitrophenyloxy)propane. This compound was employed in the next reaction without any further purification.

reactant | 2,6-dichloro-4-nitrophenol | 4.16 g | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)O | C6H3Cl2NO3
reactant | 1,3-dibromopropane | 40.4 g | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium t-butoxide | 2.46 g | CC(C)([O-])C.[K+]
solvent | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
product | 1-bromo-3-(2,6-dichloro-4-nitrophenyloxy)propane | 6.24 g | BrCCCOC1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl | C9H8BrCl2NO3
